US05430043
To 10.0 g (0.07 mole) 4-cyanophenyl isocyanate in mL methylene chloride at 23° C. was added with stirring 15.2 g (0.07 mole) 3-bromopropylalanine hydrobromide. To this was added 7.08 g (0.07 mole) triethylamine via syringe. After the addition was complete the reaction was allowed to proceed for one hour. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate (2×50 mL), dilute aqueous hydrochloric acid, dried (Na2SO4) and concentrated to give 13.8 g (85%) of desired N-4-cyanophenyl-N'-3-bromopropyl urea contaminated with 15% isocyanate dimer.

reactant | 4-cyanophenyl isocyanate | 0.07 mole, 10.0 g | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
reactant | 3-bromopropylalanine hydrobromide | 0.07 mole, 15.2 g | Br.BrCCCN[C@@H](C)C(=O)O
reactant | triethylamine | 0.07 mole, 7.08 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-4-cyanophenyl-N'-3-bromopropyl urea | 13.8 g, 85% | C(#N)C1=CC=C(C=C1)NC(=O)NCCCBr | C11H12BrN3O
